US06346621B1
6-(1-pyrrolyl)-1-(dimethylamino)indole was prepared in the same manner as in Example 12 except that 2,4-dichlorophenylacetaldehyde N,N-dimethylhydrazone was used in place of 2,6-dichlorophenylacetaldehyde N,N-dimethylhydrazone, tri(t-butyl)phosphine was used in place of 1-(N,N-dimethylaminomethyl)-2-(di-t-butylphosphino)ferrocene, pyrrole was used in place of piperazine, and rubidium carbonate was used in place of t-butoxysodium. (Yield: 2′%).

reactant | 2,4-dichlorophenylacetaldehyde N,N-dimethylhydrazone | CN(N=CCC1=C(C=C(C=C1)Cl)Cl)C | C10H12Cl2N2
reactant | tri(t-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | rubidium carbonate | C([O-])([O-])=O.[Rb+].[Rb+]
product | 6-(1-pyrrolyl)-1-(dimethylamino)indole | N1(C=CC=C1)C1=CC=C2C=CN(C2=C1)N(C)C | C14H15N3
